US04559348
7-(4-Ethoxyanilino)-5-methyl-1H-pyrazolo[4,3-b]pyridine (7) R1 ?
7-Chloro-5-methyl-1H-pyrazolo[4,3-b]pyridine (0.5 g, 0.003 mole) was heated at reflux temperature under nitrogen in p-phenetidine for 8 h. The mixture was left to stand at room temperature while a blue/black precipitate formed. This was collected, washed with water and ethyl acetate and the residue, a grey solid, was recrystallized from ethanol with charcoal present to give the required product as an off-white solid (0.11 g, 14%), m.p. 217° C.

reactant | 7-Chloro-5-methyl-1H-pyrazolo[4,3-b]pyridine | 0.003 mole, 0.5 g | ClC1=C2C(=NC(=C1)C)C=NN2 | C7H6ClN3
reactant | p-phenetidine | CCOC=1C=CC(=CC1)N | C8H11NO
product | 7-(4-Ethoxyanilino)-5-methyl-1H-pyrazolo[4,3-b]pyridine | 0.11 g, 14% | C(C)OC1=CC=C(NC2=C3C(=NC(=C2)C)C=NN3)C=C1 | C15H16N4O
